US06265434B1
Step A: Dimethyl (2-oxo-2-(3-pyridyl)ethyl)phosphonate
A solution of n-butyllithium in hexanes (9.0 mL, 1.6 M, 14 mmol) was added over 10 min. to a solution of dimethyl methylphosphonate (1.50 mL, 1.72 g, 13.8 mmol) in THF (60 mL) cooled in a dry ice/i-PrOH bath. After 30 min., a solution of methyl nicotinate (757 mg, 5.52 mmol) in THF (6 mL) was added over 2 min. The solution was stirred in the cooling bath for 45 min. before being allowed to warm to 0° C. over 1 h. The reaction was quenched with saturated aq. NH4Cl (50 mL) and then partitioned between saturated aq. NaCl (50 1L) and CH2Cl2 (200 mL). The aq. layer was extracted with CH2Cl2 (2×100 1L). The combined organic layers were dried (Na2SO4) decanted, and evaporated. Purification by flash column chromatography on silica gel, eluting with EtOAc followed by 97:3 v/v CH2Cl2/CH3OH, gave material containing some residual impurity. Further purification by flash column chromatography on silica gel, eluting with 50:50:5 v/v/v to 50:50:10 v/v/v toluene/EtOAc/CH3OH gave 1.15 g of the title compound. For the title compound: 1H NMR (500 MHz, CDCl3) δ 9.26-9.20 (bs, 1H), 8.83 (d, J=4, 1H), 8.34 (dt, J=8, 2, 1H), 7.70 (dd, J=8, 4, 1H), 3.82 (d, J=11, 6H), 3.67 (d, J=24,2H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 13.8 mmol, 1.50 mL, 1.72 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl nicotinate | 5.52 mmol, 757 mg | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | Dimethyl (2-oxo-2-(3-pyridyl)ethyl)phosphonate | 1.15 g | O=C(CP(OC)(OC)=O)C=1C=NC=CC1 | C9H12NO4P
